US09387204B2
Step3: (5-Thiazol-2-yl-imidazo[2,1-b]thiazol-6-yl)-benzaldehyde
4-(5-Bromo-imidazo[2,1-b]thiazol-6-yl)-benzaldehyde 0.09 g (0.37 mM) is dissolved in 5 mL of 1,4 dioxane and 0.5 eq of Pd(PPh3)4 is added followed by the addition of 2-(tributylstannyl)-1,3-thiazole (1.1 eq) and the reaction mixture is heated to reflux for 24 h. The reaction mixture is cooled down to room temperature and diluted with 10 mL of methylene chloride and 15 mL of water. The separated organic layer is washed with water and dried over Na2SO4. The crude reaction mixture is used for next step.

reactant | 4-(5-Bromo-imidazo[2,1-b]thiazol-6-yl)-benzaldehyde | 0.37 mM, 0.09 g | BrC1=C(N=C2SC=CN21)C2=CC=C(C=O)C=C2 | C12H7BrN2OS
reactant | 2-(tributylstannyl)-1,3-thiazole | 1.1 eq | C(CCC)[Sn](C=1SC=CN1)(CCCC)CCCC
reactant | 1,4 dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | 15 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.5 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (5-Thiazol-2-yl-imidazo[2,1-b]thiazol-6-yl)-benzaldehyde | S1C(=NC=C1)C1=C(N=C2SC=CN21)C2=C(C=O)C=CC=C2 | C15H9N3OS2
